US07098333B2
7-(2-fluorobenzyl)-4-(2-furyl)-7H-pyrrolo[2,3-d]pyrimidine-2-amine (Example 13)
A solution of N-(3,4-dimethoxybenzyl)-7-(2-fluorobenzyl)4-(2-furyl)-7H-pyrrolo[2,3-d]pyrimidine-2-amine (110 mg, 0.24 mmol) in TFA (1 mL) was heated to 50° C. for 3 h, concentrated in vacuo, treated with saturated NaHCO3, extracted with EtOAc, dried (MgSO4), concentrated in vacuo, purified by chromatography (EtOAc:Heptane, 1:4) and recrystallised (EtOAc) to give the title compound (38 mg, 51%) as a cream solid.

reactant | N-(3,4-dimethoxybenzyl)-7-(2-fluorobenzyl)4-(2-furyl)-7H-pyrrolo[2,3-d]pyrimidine-2-amine | 0.24 mmol, 110 mg | COC=1C=C(CNC=2N=C(C3=C(N2)N(C=C3)CC3=C(C=CC=C3)F)C=3OC=CC3)C=CC1OC | C26H23FN4O3
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 7-(2-fluorobenzyl)-4-(2-furyl)-7H-pyrrolo[2,3-d]pyrimidine-2-amine | 38 mg, 51% | FC1=C(CN2C=CC3=C2N=C(N=C3C=3OC=CC3)N)C=CC=C1 | C17H13FN4O
